US08470839B2
To a suspension of 2,4-dichloro-5-fluoropyrimidine (0.30 g, 1.80 mmol) in dioxane (3.6 mL) were added N-ethyl-N-isopropylpropan-2-amine (0.23 g, 1.80 mmol) and N-methyl-1-phenylmethanamine (0.24 g, 1.98 mmol), and the resulting mixture was stirred at room temperature for 16 h. The reaction was diluted with EtOAc (15 mL), and the resulting solution was washed with H2O (2×5 mL). The organic phase was dried over Na2SO4, filtered, and concentrated to a light yellow oil which was purified by normal phase chromatography (40 g SiO2; gradient, EtOAc/Hexanes) to give a colorless oil which solidified upon cooling. The solid was dried under high vacuum at 23° C. for 16 h to give N-benzyl-2-chloro-5-fluoro-N-methylpyrimidin-4-amine (0.34 g, 76%) as a white solid: mp 47-49° C.; 1H NMR (300 MHz, CDCl3) δ 8.18 (d, J=6.4, 1H), 7.43-7.23 (m, 5H), 4.82 (s, 2H), 3.17 (d, J=3.3, 3H); EIMS m/z 251 (M)+.

reactant | 2,4-dichloro-5-fluoropyrimidine | 1.80 mmol, 0.30 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.80 mmol, 0.23 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-methyl-1-phenylmethanamine | 1.98 mmol, 0.24 g | CNCC1=CC=CC=C1 | C8H11N
solvent | dioxane | 3.6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-benzyl-2-chloro-5-fluoro-N-methylpyrimidin-4-amine | 0.34 g, 76% | C(C1=CC=CC=C1)N(C1=NC(=NC=C1F)Cl)C | C12H11ClFN3
